Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Demerol
 
Attending: ___
 
Chief Complaint:
"all of a sudden, I
had the impulse to kill myself. I feel like I might do something
violent."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o man with past psych hx of OCD, Panic Disorder, distant
ETOH dependence, presents with worsening depression and new 
onset
impulsive suicidal, self injurious thoughts in setting of life
stressors, self discontiuing risperdal a few weeks ago,  and
recent GI viral illness (now subsided).  Since 5pm last evening
pt stated he had intrusive impulsive thoughts of "grabbing a
knife" and "stabbing myself a bunch of times."   He was able to
"control" the thoughts while watching with Olympics with his
mother, and attempted to sleep around 10pm. Sleep was poor last 
night, and this AM he was unable to control the thoughts and 
came
to the ED.  He is extremely distressed by this, and is very
worried he may not be able to control the urge.  Denies any urge
to hurt anyone else.   He also thought about  taking all of his
medications in order to OD.  Here in the ED he feels somewhat
safe, but states the thought of ramming his head into the glass
has occurred to him.  He had not thought of suicide at all for
the past ___ years until  last night, even despite the worsening
depression over the last few weeks.  Pt endorses worsening
neurovegatative sxs like decreased energy (staying in bed all
evening long), poor sleep, normal appetite, normal 
concentration.
Denies any grandiosity, high energy, irritability, increased
spending, promiscuity, substance abuse, but endorses that the
depression "comes and goes," and every once in a while he will
feel "normal."  He notes a history of excessive gambling (in
setting of taking Mirapex?),  risky promiscuous behavior, and
compulsively "clubbing all night, I couldn't leave the club even
when I wanted to," in the past.  Last gambling episode was ___
years ago, last sexual encounter was ___ years ago.  Has felt the
urge recently to gamble and possibly drink ETOH.  Has not 
succumb
to urge.  Last HIV test: negative ___ year ago. 
 
He denies any AH/VH/IOR/PI currently or in the past. 
 
Patient notes he is normally medication compliant, however he 
did
discontinue his Risperdal 1mg qhs about 3 weeks ago, and did not
communicate this to his psychiatrist.  He states he did so
because it made him feel too groggy throughout the day. He 
states
his depression did become significantly worse after 
discontinuing
the medication.  Pt's other stressors include  work being very
slow, and he is worried his law firm may downsize. Thus he has
been worrying about his losing his job. He has also been worried
about personal issues like, "will i ever have a relationship." 
 
He also endorses a viral GI illness for roughly 6 day, which 
only
subsided ___.  He had vomiting and diarrhea, and "couldn't
keep anything down."  He was taking his prozac, and thought he
was able to mostly keep it down. 
 
 
Patient is agreeable to inpt stay for saftey and psychopharm
eval. ED course: given Risperdal 3mg with good improvement of
intrusive suicidal/self injurious thoughts.

 
Past Medical History:
PSYCHIATRIC HISTORY:
 
Past Psych Dx: OCD, Anxiety D/O, ETOH dependence ___ yrs ago,
Compulsive Gambling in remission
Past psych hospitalizations: 3 past ETOH detoxes (last one ___ 
yrs
ago)
Psychiatrist:   ___ Mental Health, ___, ph:
___.
Therapist: ___ at ___, last visit 10 days ago.
___
 
Past psychopharm med trials:
Prozac--> good response
Haldol--> ?, took while using ETOH, 
imipramine--> ?, took while using ETOH
risperdal--> somnolence, 
abilify-->somnolence
Gabapentin--> good, for restless leg
Past Suicide Attempts: none
Past SI: ___ years ago while excessive ETOH intake, thought about
running car into a tree.
Access to guns: none
Legal: ___
Assaultive Ideation/Behavior: no aggressive behavior in past, 
has
had ideation in past

PAST MEDICAL HISTORY (OTHER NEUROLOGIC ILLNESS):  
 
HYPERLIPIDEMIA, MIXED  
HYPERTENSION, BENIGN ESSENTIAL  
ASTHMA  
SLEEP APNEA-- uses mouth guard  
RESTLESS LEG SYNDROME  
TREMOR, ESSENTIAL  
ALCOHOL ABUSE, IN REMISSION 
 FAMILY HX--MELANOMA, 

Head Trauma: Serious MVA ___  years ago, head hit windshield,
hospitalized, concussion.   Syncope after new anti hypertensive
trail ___ years ago,  hit head, broke rib, + LOC.
Szrs: denies
PCP:  ___ at ___
Last Visit to PCP: few months ago

ALLERGIES: Demerol
 

 
Social History:
 
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Family psych dx:Family Anxiety
 
Family psych hospitalizations: pt unaware of any
 
Fam suicides: Mother's cousin successfully committed suicide,
Aunt attempted in setting of depression/terminal CA.

 
Physical Exam:
VS: 97.2, 74, 128/86, 100% RA 
HEENt: NC
CV: RRR
CHEST: CTA b/l
Abd: soft, NT
Ext: no c/c/e

MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: appears stated age,  
groomed , wearing hospital ___,  lying in bed,  good eye
contact
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): no PMA/PMR
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): cooperative,
anxious
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
normal volume, spontaneous, clear, some abnormal prosody 
     MOOD: "worried"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
anxious, slightly flat
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): linear, answers
questions directly.
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,
DELUSIONS, ETC.): no overt delusions,      
      ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): not overtly
responding to internal stimuli, denies AH/VH
     NEUROVEGETATIVE SYMPTOMS: good appetite, decent
concentration, poor energy, poor sleep, 
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN):
endorses SI (thoughts of stabbing self, taking pills, smashing
head into glass). Denies HI
     INSIGHT AND JUDGMENT: fair/fair
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): alert
          ORIENTATION: A and O x 3
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): MOWB
intact
          MEMORY (SHORT- AND LONG-TERM): registers/recalls ___
          CALCULATIONS: 7 quarters in 1.75
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): 
___
          PROVERB INTERPRETATION:glass houses-->  "if you have
your own problems, you shouldn't pick on other people's.  You
should take care of your stuff."

 
Pertinent Results:
___ 05:35PM   GLUCOSE-110* UREA N-12 CREAT-1.1 SODIUM-134 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-27 ANION GAP-16
___ 05:35PM   ALT(SGPT)-30 AST(SGOT)-28 ALK PHOS-143* TOT 
BILI-0.6
___ 05:35PM   CALCIUM-9.8 PHOSPHATE-4.4 MAGNESIUM-2.1
___ 05:35PM   VIT B12-1361* FOLATE-17.2
___ 05:35PM   TSH-4.0
___ 05:35PM   HCG-<5
___ 05:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:35PM   WBC-12.0* RBC-5.57 HGB-15.8 HCT-46.1 MCV-83 
MCH-28.3 MCHC-34.3 RDW-12.3
___ 05:35PM   PLT COUNT-329

___ 08:51AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 08:51AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:51AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-4* PH-7.0 LEUK-NEG
___ 08:10AM   GLUCOSE-102 UREA N-10 CREAT-0.9 SODIUM-136 
POTASSIUM-3.7 CHLORIDE-99 TOTAL CO2-25 ANION GAP-16
___ 08:10AM   TSH-2.3
___ 08:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:10AM   WBC-11.8* RBC-5.49 HGB-15.6 HCT-45.0 MCV-82 
MCH-28.5 MCHC-34.8 RDW-12.2
___ 08:10AM   NEUTS-83.0* LYMPHS-11.7* MONOS-4.4 EOS-0.7 
BASOS-0.2
___ 08:10AM   PLT COUNT-394
 
Brief Hospital Course:
ID Data: ___ yo M w/PPH of OCD, compulsive gambling in remission, 
panic disorder, & remote ETOH dependence who p/w worsening 
depression x several weeks in the context of having self-D/Ced 
his Risperdal 3 wks ago because of daytime sleepiness,  now 
developing intrusive thoughts about self-injury and suicide for 
two days. 

Psych: Following admission, and reintiation of Risperidone, the 
patient was doing very well, denied any intrusive suicidal or 
violent thoughts.  Also denies somnolence from medications, 
which were switched to late evening (rather than bedtime).  
Slept well during admission.  Family meeting was held, and pt 
was future focused, looking forward to going home to resume 
work.  Patient was also looking forward to working with outpt 
therapist and psychiatrist after discharge.

The family meeting was very productive as well.  He communicated 
that he would like for his brothers and sisters to have closer 
contact with him, and that he would like for then to inquire 
about his mental health more often, as it has been hard for him 
to discuss his problems throughout his life.  His family was 
incredibly supportive and very much want to be more involved in 
his personal life.  He agreed that he would discuss medictaion 
changes first with his psychiatrist rather than take them upon 
himself. 

Psychopharm: Patient noted he had discontinued Risperidone ___ 
to daytime somnolence. In order to address this, medication 
regimen was changed to q 8pm as opposed to 10 pm.  This change 
greatly relieved the previous daytime somnolence.  He continued 
with Risperdal 1mg q 8pm, and Prozac 100mg po qd.  

Dispo: Pt to follow up with Dr. ___ at 
___.

 
Medications on Admission:
 
Prozac 100mg qd
Risperdal 1mg qhs (not complaint x 3 weeks)
Need to confirm anti hypertensives with Pharmacy
Lisinopril 10 mg Tab Oral 1 Tablet(s) Once Daily
Neurontin 300 mg Cap Oral 1 Capsule(s) Once Daily
Lipitor 10 mg Tab Oral 1 Tablet(s) Once Daily
Pharmacy: ___, ___

 
Discharge Medications:
1. Triamterene-Hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
2. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
3. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Risperidone 1 mg Tablet Sig: One (1) Tablet PO at bedtime: 
take at 8 p.m.  
7. Prozac 20 mg Capsule Sig: Five (5) Capsule PO once a day: 
(take 100 mg total daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: Obsessive Compulsive Disorder, Anxiety disorder with 
panic attacks, alcohol dependence in remission, compulsive 
gambling in remission
     AXIS II:deferred
     AXIS III: Hypertension, asthma, sleep apnea, restless leg 
syndrome
    AXIS IV: work stress
    AXIS V: 65

 
Discharge Condition:
Stable, improved.    Speech normal r/r/v.  Mood:  "Fine."  
Affect:  Related, slightly anxious.  TP:  Linear.  TC:  Denies 
suicidal ideation, intrusive thoughts of violence.  Denies AH, 
VH, IOR, PI.  insight:  Good.  Judgment:  Good.
 
Discharge Instructions:
-If you are having thoughts of wanting to hurt yourself or 
others, please call ___ or come to the Emergency Department 
immediately. 
-Please continue to take your medications as indicated. 
-Please follow up with your outpatient treaters as detailed 
below

 
Followup Instructions:
___